US08957070B2
7-[(2-Thienylcarbonyl)amino]-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylate (410 mg) in tetrahydrofuran (6 mL)-methanol (6 mL) was added aqueous solution (3 mL) of 85% potassium hydroxide (400 mg), and the mixture was stirred at room temperature for 7 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (325 mg, yield 87%) as pale-yellow crystals. melting point>268° C. (decomposition).

reactant | ethyl 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylate | 410 mg | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C16H14N2O3S
reactant | methanol | 6 mL | CO | CH4O
reactant | potassium hydroxide | 3 mL, 400 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 7-[(2-Thienylcarbonyl)amino]-1H-indole-2-carboxylic acid | 325 mg, yield 87% | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H10N2O3S
